US05753650
A mixture of 2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine (13.43 g, 57 mmmol, prepared as described by Mark G. Bock et al in Journal of Organic Chemistry, Vol. 52, pp. 3232-3239, year 1987), 4-methoxybenzyl chloride (12.6 mL, 62.5 mmol) and potassium carbonate (15.7 g, 114 mmol) in N,N-dimethylformamide (130 mL) was heated at 60° C. overnight under an atmosphere of argon. The resultant slurry was concentrated and the residue was treated with ethyl acetate and water. The organic extract was separated, washed twice with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under vacuo. The residue was subjected to column chromatography on silica gel eluting with 1:1 ethyl acetate and hexane. Collection and concentration of appropriate fractions provided 2,3-dihydro-1-[4-methoxybenzyl]-2-oxo-5-phenyl-1H-1,4-benzodiazepine.

reactant | 2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine | O=C1NC2=C(C(=NC1)C1=CC=CC=C1)C=CC=C2 | C15H12N2O
reactant | 4-methoxybenzyl chloride | 62.5 mmol, 12.6 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium carbonate | 114 mmol, 15.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
product | 2,3-dihydro-1-[4-methoxybenzyl]-2-oxo-5-phenyl-1H-1,4-benzodiazepine | COC1=CC=C(CN2C(CN=C(C3=C2C=CC=C3)C3=CC=CC=C3)=O)C=C1 | C23H20N2O2
